US06548511B1
Next, potassium carbonate (22.5 g, 163 mmol) and methyl iodide (10.2 ml, 164 mmol) were added to DMF (110 ml) solution of 3-allyl-2-mercapto-6-trifluoromethyl-4(3H)-pyrimidinone (32.1 g, 136 mmol) with stirring under ice-cooling, followed by stirring for 23 hours while gradually returning to room temperature. After completion of the reaction, the reaction solution was concentrated under a reduced pressure, saturated brine (100 ml), water (100 ml) and ethyl acetate (300 ml) were added to the thus obtained residue to separate the organic layer and then the aqueous layer was extracted with ethyl acetate (100 ml×2). The organic layers were combined, washed with saturated brine (50 ml×2) and then dried over anhydrous magnesium sulfate. The drying agent was removed by filtration and the resulting filtrate was concentrated under a reduced pressure. The thus obtained crude product was purified, by a silica gel column chromatography (hexane˜hexane:ethyl acetate=9:1) to obtain white solid of 3-allyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone (26.9 g, 79%).

reactant | potassium carbonate | 163 mmol, 22.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 164 mmol, 10.2 ml | CI | CH3I
reactant | 3-allyl-2-mercapto-6-trifluoromethyl-4(3H)-pyrimidinone | 136 mmol, 32.1 g | C(C=C)N1C(=NC(=CC1=O)C(F)(F)F)S | C8H7F3N2OS
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
product | 3-allyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone | 26.9 g, 79% | C(C=C)N1C(=NC(=CC1=O)C(F)(F)F)SC | C9H9F3N2OS
